US08258160B2
Synthesis of N-benzyl-4-methyl-2-(4-(phenoxymethyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide
Following the procedure as described in Example 10, making variations as necessary to replace phenylacetylene with phenyl propargyl ether to react with 2-azido-N-benzyl-4-methylthiazole-5-carboxamide, the title compound was obtained as a white solid in 36% yield: mp 140-143° C. (ethyl acetate/hexanes); 1H NMR (300 MHz, CDCl3) δ 8.45 (s, 1H), 7.38-7.26 (m, 7H), 7.02-6.98 (m, 3H), 6.15 (t, J=6.0 Hz, 1H), 5.28 (s, 2H), 4.63 (d, J=6.0 Hz, 2H), 2.68 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 160.8, 157.9, 155.3, 153.2, 145.6, 137.4, 129.6, 128.9, 127.9, 127.9, 124.7, 121.5, 120.3, 114.7, 61.5, 44.4, 17.4; MS (ES+) m/z 406.3 (M+1).

reactant | phenylacetylene | C1(=CC=CC=C1)C#C | C8H6
reactant | phenyl propargyl ether | C(C#C)OC1=CC=CC=C1 | C9H8O
reactant | 2-azido-N-benzyl-4-methylthiazole-5-carboxamide | N(=[N+]=[N-])C=1SC(=C(N1)C)C(=O)NCC1=CC=CC=C1 | C12H11N5OS
product | N-benzyl-4-methyl-2-(4-(phenoxymethyl)-1H-1,2,3-triazol-1-yl)thiazole-5-carboxamide | 36% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N1N=NC(=C1)COC1=CC=CC=C1)C | C21H19N5O2S
